US04026911
In a preferred embodiment of the process, 2-methyl-2-(3-butynyl)-1,3-dioxolane is reacted with 1-chloro-3-bromo-propane or 1-chloro-3-iodo-propane, in the presence of lithium amide in liquid ammonia to obtain 2-methyl-2-(7-chloro-3-heptynyl)-1,3-dioxolane. Conversion of the latter to the nitrile, 2-methyl-2-(7-cyano-3-heptynyl)-1,3-dioxolane, is accomplished by reaction with sodium cyanide in ethanol under reflux. The nitrile is then hydrolyzed in sodium hydroxide to obtain the desired 9-oxo-5-decynoic acid.

reactant | 2-methyl-2-(7-cyano-3-heptynyl)-1,3-dioxolane | CC1(OCCO1)CCC#CCCCC#N | C12H17NO2
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | 9-oxo-5-decynoic acid | O=C(CCC#CCCCC(=O)O)C | C10H14O3
